US07465815B2
2-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-3,5-dimethylphenol
Using 3-(4-isopropylphenyl)-4,6-dimethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 4, the title compound was synthesized in the same manner as in Reference Example 8. Yield 93%. Melting point: 101-102° C. (ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-4,6-dimethyl-1-benzofuran-2 (3H)-one | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC(=C2)C)C)=O | C19H20O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-3,5-dimethylphenol | Yield 93% | OCC(C1=CC=C(C=C1)C(C)C)C1=C(C=C(C=C1C)C)O | C19H24O2
